US07262212B2
A mixture of 2-chloro-4-nitro-1H-imidazole (1.2 g, 8.13 mmol), 5-(2-methyloxiran-2-ylmethylthio)-1-phenyl-1H-tetrazole (1.9 g, 7.65 mmol), sodium acetate (700 mg, 8.53 mmol) and ethanol (20 ml) was stirred under reflux overnight. The reaction mixture was allowed to return to room temperature and concentrated under reduced pressure. To the residue, water was added, and the resulting mixture was extracted with ethyl acetate twice. The organic phases were combined, washed with a saturated aqueous sodium bicarbonate solution twice, then washed with water and a saturated saline solution in this order, dried over sodium sulfate and then filtered. The filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (methylene chloride/methanol=50/1) to afford 1-(2-chloro-4-nitroimidazol-1-yl)-2-methyl-3-(1-phenyl-1H-tetrazol-5-ylthio)propane-2-ol to afford (2.1 g, yield 69%) as a light yellow powder.

reactant | 2-chloro-4-nitro-1H-imidazole | 8.13 mmol, 1.2 g | ClC=1NC=C(N1)[N+](=O)[O-] | C3H2ClN3O2
reactant | 5-(2-methyloxiran-2-ylmethylthio)-1-phenyl-1H-tetrazole | 7.65 mmol, 1.9 g | CC1(OC1)CSC1=NN=NN1C1=CC=CC=C1 | C11H12N4OS
reactant | sodium acetate | 8.53 mmol, 700 mg | C(C)(=O)[O-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 1-(2-chloro-4-nitroimidazol-1-yl)-2-methyl-3-(1-phenyl-1H-tetrazol-5-ylthio)propane-2-ol | yield 69% | ClC=1N(C=C(N1)[N+](=O)[O-])CC(CSC1=NN=NN1C1=CC=CC=C1)(O)C | C14H14ClN7O3S
